.title Buffer Circuit - Missing Subckt
.subckt buf in out
Rseries in out 220
.ends buf
X1 in out buf
R1 out gnd 2.2k
V1 in gnd PULSE(0 3.3 1n 100p 100p 2n 4n)
.tran 10p 8n
.end
