.title MOSFET Circuit - Invalid Directive
.lib
M1 out gate gnd gnd nmos W=4u L=90n
.model nmos nmos (level=1 vto=0.7 kp=120u)
Vdd gate 0 1.2
R1 out 0 1k
.tran 10p 10n
.end
