.title Filter with Subckt - Missing Subckt
X1 in mid terminator
R1 mid out 4.7k
C1 out gnd 100f
V1 in gnd PULSE(0 3.3 1n 100p 100p 2n 4n)
.tran 10p 10n
.end
