// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=4.65973e-09 rise=1.86389e-11 fall=1.86389e-11 width=7.45558e-07 period=1.49112e-06

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=2.2e-06
r1 (mid out) resistor r=553.842
c1 (out 0) capacitor c=1e-12

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=3.72779e-07 errpreset=conservative maxstep=4.65973e-11

save in out
